US07456164B2
Intermediate 35: 1-[4-(3-bromo-propoxy)-phenyl]-cyclohexanecarbonitrile
1-(4-Hydroxyphenyl)cyclohexanecarbonitrile (2.0 g, 10 mmol) was taken in acetone (150 mL) and then Cs2CO3 (8.1 g, 25 mmol) was added followed by dropwise addition of 1,3 dibromopropane (5.1 mL, 50 mmol). The mixture was heated for 3 h at 70° C. After cooling and filtration, the mixture was concentrated and the residue was purified by flash chromatography (50 g silica gel, DCM) to provide the title compound (2.8 g, 87%). Note: presence of allyl derivative as impurity.

reactant | 1-(4-Hydroxyphenyl)cyclohexanecarbonitrile | 10 mmol, 2.0 g | OC1=CC=C(C=C1)C1(CCCCC1)C#N | C13H15NO
reactant | Cs2CO3 | 25 mmol, 8.1 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,3 dibromopropane | 50 mmol, 5.1 mL | BrCCCBr | C3H6Br2
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | 1-[4-(3-bromo-propoxy)-phenyl]-cyclohexanecarbonitrile | 2.8 g, 87% | BrCCCOC1=CC=C(C=C1)C1(CCCCC1)C#N | C16H20BrNO
